US08835419B2
Synthesis of (4-(3-((R)-1-(2,4-dichlorophenyl)ethylamino)-4-fluorophenyl)piperazin-1-yl)((R)-piperidin-2-yl)methanone (see FIG. 16)
To a stirred solution of the (R)—N-(1-(2,4-dichlorophenyl)ethyl)-2-fluoro-5-(piperazin-1-yl)aniline (0.085 g, 0.23 mmol) and (R)-1-(t-butoxycarbonyl)piperidine-2-carboxylic acid (0.053 g, 0.23 mmol) in DMF (1.5 mL) was added HATU (0.11 g, 0.28 mmol) and iPr2NEt (0.075 g, 0.58 mmol). The reaction mixture was stirred at room temperature for 2 h, and quenched with deionzied water. The aqueous layer was extracted with diethyl ether (2×10 mL). The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 10-70% ethyl acetate in hexanes) to afford the desired product (0.080 g, 0.14 mmol, 65%).

reactant | (R)—N-(1-(2,4-dichlorophenyl)ethyl)-2-fluoro-5-(piperazin-1-yl)aniline | 0.23 mmol, 0.085 g | ClC1=C(C=CC(=C1)Cl)[C@@H](C)NC1=C(C=CC(=C1)N1CCNCC1)F | C18H20Cl2FN3
reactant | (R)-1-(t-butoxycarbonyl)piperidine-2-carboxylic acid | 0.23 mmol, 0.053 g | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)C(=O)O | C11H19NO4
reactant | HATU | 0.28 mmol, 0.11 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 0.58 mmol, 0.075 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | (4-(3-((R)-1-(2,4-dichlorophenyl)ethylamino)-4-fluorophenyl)piperazin-1-yl)((R)-piperidin-2-yl)methanone | 0.14 mmol, 0.080 g, 65% | ClC1=C(C=CC(=C1)Cl)[C@@H](C)NC=1C=C(C=CC1F)N1CCN(CC1)C(=O)[C@@H]1NCCCC1 | C24H29Cl2FN4O
